US07741327B2
A mixture of (L)-leucine methyl ester hydrochloride (0.82 g, 4.56 mmol) in acetonitrile (11.4 mL) was treated with N,N-diisopropylethylamine (0.74 mL, 4.48 mmol). After addition was complete, the mixture was stirred at 60° C. for 45 min. At this time, the reaction was cooled to 25° C., treated with N,N-diisopropylethylamine (0.74 mL, 4.48 mmol) and acetonitrile (11.4 mL) and then heated to 80° C. Upon reaching 80° C., the reaction was treated with a solution of (E)-4-bromo-3-(2-fluoro-5-methyl-phenoxy)-but-2-enoic acid ethyl ester (1.31 g, 4.14 mmol) in acetonitrile (10.4 mL). After the addition was complete, the reaction mixture was heated to 100° C. where it stirred for 24 h. At this time, the reaction mixture was cooled to 25° C. and was stirred at 25° C. for 2 d. The reaction was then concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 10-50% ethyl acetate/hexanes) afforded (S)-2-[4-(2-fluoro-5-methyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid methyl ester (0.60 g, 43%) as an orange oil: HR-ES-MS m/z calculated for C18H22NO4F [M+H]+ 336.1606, observed 336.1607; 1H NMR (300 MHz, DMSO-d6) δ ppm 0.87 (d, J=6.6 Hz, 3H), 0.92 (d, J=6.6 Hz, 3H), 1.34-1.53 (m, 1H), 1.53-1.69 (m, 1H), 1.72-1.89 (m, 1H), 2.31 (s, 3H), 3.66 (s, 3H), 4.18 (d, J=18.4 Hz, 1H), 4.25 (d, J=18.4 Hz, 1H), 4.73 (dd, J=11.3, 4.4 Hz, 1H), 4.90 (s, 1H), 7.11-7.20 (m, 1H), 7.26-7.38 (m, 2H).

reactant | (L)-leucine methyl ester hydrochloride | 4.56 mmol, 0.82 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | N,N-diisopropylethylamine | 4.48 mmol, 0.74 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 4.48 mmol, 0.74 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (E)-4-bromo-3-(2-fluoro-5-methyl-phenoxy)-but-2-enoic acid ethyl ester | 4.14 mmol, 1.31 g | C(C)OC(\C=C(/CBr)\OC1=C(C=CC(=C1)C)F)=O | C13H14BrFO3
solvent | acetonitrile | 11.4 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10.4 mL | C(C)#N | C2H3N
solvent | acetonitrile | 11.4 mL | C(C)#N | C2H3N
product | (S)-2-[4-(2-fluoro-5-methyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid methyl ester | 0.60 g, 43% | COC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C=CC(=C1)C)F)=O)=O | C18H22FNO4
